US04287341
To a stirred solution of 1.78 g. (0.01 mole) 3,4-dimethoxy-2-aminobenzonitrile in 30 ml. of N,N-dimethylformamide is added 2.88 g. (0.01 mole) ethyl 4-(2-furoyl)piperazin-1-ylformimidate hydrochloride followed by 855 mg. (0.02 mole) of a 56.1% dispersion of sodium hydride in mineral oil. The reaction mixture is stirred at ambient temperature for 30 minutes, and then it is heated to ca. 100° C. and maintained at that temperature for 12 hours. The reaction mixture is cooled to ambient temperature, diluted with an excess of water, and then extracted with chloroform. The chloroform extract is washed several times with water, dried using anhydrous magnesium sulfate, and then evaporated to dryness in vacuo. This affords crude 7,8-dimethoxy-4-amino-2-[4-(2-furoyl)piperazin-1-yl]quinazoline, which is purified further by recrystallization from aqueous ethanol.

reactant | 3,4-dimethoxy-2-aminobenzonitrile | 0.01 mole | COC=1C(=C(C#N)C=CC1OC)N | C9H10N2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl 4-(2-furoyl)piperazin-1-ylformimidate hydrochloride | 0.01 mole | Cl.O1C(=CC=C1)C(=O)N1CCN(CC1)C(OCC)=N
reactant | sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | 7,8-dimethoxy-4-amino-2-[4-(2-furoyl)piperazin-1-yl]quinazoline | COC1=CC=C2C(=NC(=NC2=C1OC)N1CCN(CC1)C(=O)C=1OC=CC1)N | C19H21N5O4
